US08304419B2
To a solution of 5-[(ethyloxy)carbonyl]-4-methyl-1H-pyrrole-2-carboxylic acid (0.160 g, 0.812 mmol) in DMF (4 ml) was added DIPEA (0.140 mL, 0.790 mmol). The reaction mixture was stirred and the solution was divided into four equal portions, one of which was added to a glass vial with a stir bar. To the vial was added ethanolamine (0.012 mL, 0.2 mmol) and HATU (0.075 g, 0.197 mmol) and the reaction mixture stirred overnight. Purification was accomplished by RPHPLC (water:acetonitrile with 0.1% TFA). The desired fractions were collected and lypholized to afford ethyl 5-{[(2-hydroxyethyl)amino]carbonyl}-3-methyl-1H-pyrrole-2-carboxylate (0.010 g, 48%) as an oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.63 (br. s., 1H) 8.25-8.42 (m, 1H) 6.61 (s, 1H) 4.25 (q, 2H) 3.48 (t, 2H) 3.28 (q, 2H) 2.25 (s, 3H) 1.30 (t, 3H). MS: m/z 241.4 (M+1).

reactant | 5-[(ethyloxy)carbonyl]-4-methyl-1H-pyrrole-2-carboxylic acid | 0.812 mmol, 0.160 g | C(C)OC(=O)C1=C(C=C(N1)C(=O)O)C | C9H11NO4
reactant | DIPEA | 0.790 mmol, 0.140 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethanolamine | 0.2 mmol, 0.012 mL | C(O)CN | C2H7NO
reactant | HATU | 0.197 mmol, 0.075 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | ethyl 5-{[(2-hydroxyethyl)amino]carbonyl}-3-methyl-1H-pyrrole-2-carboxylate | 0.010 g, 48% | OCCNC(=O)C1=CC(=C(N1)C(=O)OCC)C | C11H16N2O4
